US04458007
Preparation of glycerol dimethacrylate
1282.5 g (9 moles) of glycidyl methacrylate were added dropwise with stirring over a period of 3 hours to a mixture of 860.9 g (10 moles) methacrylic acid, 21.4 g benzyltriethylammonium chloride and 5 g p-methoxy-phenol at 75°-85° C. Stirring of the mixture was continued for 2 hours at 80° C. and the solution was then poured into dilute sodium bicarbonate solution and stirred for some time. The organic phase was separated and washed again with sodium bicarbonate solution. The product was dried over sodium sulfate and, after filtration, was stabilized with 15 g of p-methoxyphenol. Small portions of approx. 150 g each were fractionally distilled at 0.07 mbar and a bath temperature of about 140° C.

reactant | glycidyl methacrylate | 9 moles, 1282.5 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | methacrylic acid | 10 moles, 860.9 g | C(C(=C)C)(=O)O | C4H6O2
reactant | p-methoxy-phenol | 5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | benzyltriethylammonium chloride | 21.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | glycerol dimethacrylate | C(C(=C)C)(=O)OCC(OC(C(=C)C)=O)CO | C11H16O5
